US08541412B2
Step D: 2-Hydroxyimino-N-{4-[2-(2-oxo-oxazolidin-3-yl)ethyl]phenyl}acetamide
Sodium sulphate (78.3 g) is added to a solution of trichloroacetaldehyde hydrate (32.5 mmoles) in water (100 ml). To the resulting suspension there are added a solution of 3-[2-(4-amino-phenyl)ethyl]oxazolidin-2-one in water (20 ml) and concentrated HCl solution (2.83 ml). A solution of hydroxylamine hydrochloride (95 mmoles) in water (50 ml) is then added. The reaction mixture is heated at reflux for two hours. The mixture is then cooled to ambient temperature. The solid formed is then filtered off, washed with water and dried in vacuo in the presence of P2O5 and at 40° C. overnight to yield the title product, which is used directly in the next Step.

reactant | Sodium sulphate | 78.3 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | trichloroacetaldehyde hydrate | 32.5 mmoles | O.ClC(C=O)(Cl)Cl
reactant | 3-[2-(4-amino-phenyl)ethyl]oxazolidin-2-one | NC1=CC=C(C=C1)CCN1C(OCC1)=O | C11H14N2O2
reactant | hydroxylamine hydrochloride | 95 mmoles | Cl.NO
solvent | water | 100 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | HCl | 2.83 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 2-Hydroxyimino-N-{4-[2-(2-oxo-oxazolidin-3-yl)ethyl]phenyl}acetamide | ON=CC(=O)NC1=CC=C(C=C1)CCN1C(OCC1)=O | C13H15N3O4
